US06326369B1
Ethyl 2-(2,3-dimethoxy-1,4-dioxo-4,5,6,7,8,9-hexahydro-1H-benzo[a]cyclohepten-7-yl)acetate
To a mixture of 2-(1,2,3,4-tetramethoxy-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-7-yl)ethyl acetate (800 mg), 2,6-pyridinedicarboxylic acid (1.14 g), THF (16 ml), and water (8 ml) was dropwise added a solution of CAN (4.98 g) in water (8 ml) with cooling with ice. After the reaction mixture was stirred for 15 min, water was added to the reaction mixture, which was extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride and dried. The solvent was removed in vacuo. The residue was purified by silica gel column chromatography (hexane to hexane:ethyl acetate=4:1) to yield the entitled compound (604 mg) as an oil.

reactant | 2-(1,2,3,4-tetramethoxy-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-7-yl)ethyl acetate | 800 mg | C(C)(=O)OCCC1CCC2=C(CC1)C(=C(C(=C2OC)OC)OC)OC | C19H28O6
reactant | 2,6-pyridinedicarboxylic acid | 1.14 g | N1=C(C=CC=C1C(=O)O)C(=O)O | C7H5NO4
reactant | THF | 16 ml | C1CCOC1 | C4H8O
reactant | CAN | 4.98 g | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
solvent | water | 8 ml | O | H2O
solvent | water | 8 ml | O | H2O
product | Ethyl 2-(2,3-dimethoxy-1,4-dioxo-4,5,6,7,8,9-hexahydro-1H-benzo[a]cyclohepten-7-yl)acetate | 604 mg | COC1=C(C(C2=C(CCC(CC2)CC(=O)OCC)C1=O)=O)OC | C17H22O6
